US04564612
Catalytic reduction of 10 g of 3-(o-nitrophenyl)thio-2(R)-phthalimidopropionic acid in 300 ml of methanol is carried out at ordinary temperature and under atmospheric pressure using 5% palladium-carbon as catalyst. After absorption of the calculated amount of hydrogen, the catalyst is removed and the methanol is evaporated off under reduced pressure. The residue is crystallized from a mixture of ether and petroleum ether to give 8.4 g of 3-(o-aminophenyl)thio-2(R)-phthalimidopropionic acid as pale yellow crystals. To a stirred solution of 8.4 g of this product in 50 ml N,N-dimethylformamide is added dropwise 5.5 g of diethyl phosphorocyanidate at ice bath temperature. After the reaction mixture is stirred for 5 minutes, 2.28 g of triethylamine, is added dropwise at ice bath temperature. The resulting mixture is stirred for 30 minutes in an ice bath and for another 1 hour at room temperature, diluted with 200 ml of water and allowed to stand overnight. The deposited solid is collected by filtration and purified by silica gel column chromatography (dichloromethane:ethyl acetate=2:1 ) to give 5.4 g of 3(R)-phthalimido-2,3-dihydro-1,5(5H)-benzothiazepin-4-one as colorless prisms.

reactant | 3-(o-nitrophenyl)thio-2(R)-phthalimidopropionic acid | 10 g | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@@H](C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C17H12N2O6S
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 3-(o-aminophenyl)thio-2(R)-phthalimidopropionic acid | 8.4 g | NC1=C(C=CC=C1)SC[C@@H](C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C17H14N2O4S
